US09303023B2
To a solution of 4-nitro-1H-pyrazole (1.50 g, 12.87 mmol) in MeCN (30 mL), (2-bromoethyl)benzene (1.97 mL, 14.15 mmol) and Cs2CO3 (4.61 g, 14.15 mmol) was added. The resulting mixture was refluxed (80° C.) for 1.5 h, then the reaction mixture was allowed to reach rt. The mixture was diluted with DCM, filtered, the filter cake was washed with DCM and the filtrate was concentrated in vacuo to obtain 4-nitro-1-phenethyl-1H-pyrazole as a beige solid which was used in the next step without further purification. LC-MS conditions A: tR=0.92 min; [M+H]+=217.97.

reactant | 4-nitro-1H-pyrazole | 12.87 mmol, 1.50 g | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | (2-bromoethyl)benzene | 14.15 mmol, 1.97 mL | BrCCC1=CC=CC=C1 | C8H9Br
reactant | Cs2CO3 | 14.15 mmol, 4.61 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | MeCN | 30 mL | CC#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-nitro-1-phenethyl-1H-pyrazole | [N+](=O)([O-])C=1C=NN(C1)CCC1=CC=CC=C1 | C11H11N3O2
